US05015661
rac-2-{2-[3-(Acetyloxy)-4-methoxyphenyl]ethyl}-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6ol.
A mixture of 0.7 g of rac-2-{2-[3-(acetyloxy)-4 -methoxyphenyl]ethynyl}-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol, 0.2 g of 5 % palladium on carbon and 50 ml of ethanol was hydrogenated at atmospheric pressure for 2 hours. The catalyst was removed by filtration and the filtrate was evaporated. Crystallization from ether/hexane gave 0.6 g of colorless crystals with m.p. 110°-113°.

reactant | rac-2-{2-[3-(acetyloxy)-4 -methoxyphenyl]ethynyl}-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | 0.7 g | C(C)(=O)OC=1C=C(C=CC1OC)C#CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C24H26O5
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | rac-2-{2-[3-(Acetyloxy)-4-methoxyphenyl]ethyl}-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6ol | 0.6 g | C(C)(=O)OC=1C=C(C=CC1OC)CCC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C24H30O5
